T1 (vdd! net9 net9 0) pfet L=8.96E-6 W=8.44E-6
T2 (net2 net8 net8 0) nfet L=2.53E-6 W=4.92E-6
T3 (net6 net9 net9 0) pfet L=5.37E-6 W=3.17E-6
R4 (net9 net4) R=5.4E3
T5 (net7 net2 net2 0) nfet L=4.33E-6 W=0.73E-6
C6 (vdd! net7) C=1.3E-12
C7 (net1 net5) C=9.2E-9
T8 (net5 net7 net7 0) pfet L=8.37E-6 W=6.93E-6
C9 (net2 0) C=1.0E-8
T10 (net5 net5 net5 0) nfet L=1.19E-6 W=9.51E-6
C11 (net2 vdd!) C=4.7E-14
R12 (net6 net7) R=5.7E2
T13 (net8 net3 net3 0) pfet L=3.14E-6 W=5.11E-6
T14 (net4 net5 net5 0) pfet L=9.16E-6 W=2.70E-6
C15 (net9 0) C=9.0E-8
T16 (net6 net8 net8 0) pfet L=6.38E-6 W=9.85E-6
T17 (net1 net6 net6 0) nfet L=3.81E-6 W=3.23E-6
T18 (net4 net5 net5 0) nfet L=1.81E-6 W=1.25E-6
R19 (net2 0) R=9.1E5
C20 (net7 net2) C=1.4E-8
T21 (net2 net6 net6 0) nfet L=6.77E-6 W=3.09E-6
T22 (net5 net3 net3 0) pfet L=8.20E-6 W=4.55E-6
C23 (net7 net4) C=8.5E-12
C24 (net6 net8) C=9.9E-5
T25 (0 net6 net6 0) nfet L=4.07E-6 W=8.66E-6
C26 (net8 net2) C=5.6E-12
T27 (net1 vdd! vdd! 0) nfet L=2.89E-6 W=3.86E-6
T28 (net2 net3 net3 0) pfet L=4.71E-6 W=3.69E-6
T29 (net5 net4 net4 0) nfet L=7.57E-6 W=2.74E-6
T30 (net9 net2 net2 0) nfet L=6.49E-6 W=4.33E-6
T31 (net5 net4 net4 0) nfet L=8.59E-6 W=9.14E-6
T32 (net1 net8 net8 0) nfet L=2.42E-6 W=5.66E-6
R33 (net8 net1) R=9.3E1

