R1 (net20 net16) R=6.4E3
T2 (net11 net2 net2 0) nfet L=2.20E-6 W=7.36E-6
T3 (net22 net23 net23 0) nfet L=7.07E-6 W=0.39E-6
R4 (net12 net17) R=2.2E4
T5 (net9 net7 net7 0) nfet L=9.01E-6 W=9.70E-6
C6 (net21 net17) C=8.3E-14
C7 (net11 net4) C=2.7E-6
T8 (net9 net3 net3 0) nfet L=5.98E-6 W=6.75E-6
R9 (0 net20) R=0.8E5
T10 (vdd! net16 net16 0) nfet L=4.84E-6 W=7.79E-6
T11 (net18 net14 net14 0) nfet L=1.36E-6 W=6.05E-6
C12 (vdd! net11) C=3.5E-13
T13 (net9 net16 net16 0) pfet L=6.90E-6 W=1.63E-6
R14 (net7 net17) R=0.2E2
T15 (net17 vdd! vdd! 0) pfet L=1.39E-6 W=1.53E-6
C16 (net23 0) C=7.7E-10
T17 (net10 net2 net2 0) nfet L=5.29E-6 W=6.88E-6
C18 (net1 vdd!) C=1.5E-11
T19 (net3 net21 net21 0) nfet L=7.54E-6 W=5.72E-6
R20 (net11 net23) R=9.1E2
T21 (net15 net22 net22 0) pfet L=6.02E-6 W=9.10E-6
C22 (net12 net4) C=6.7E-11
C23 (net24 net18) C=2.8E-14
R24 (0 net11) R=7.3E0
T25 (0 net10 net10 0) nfet L=9.49E-6 W=3.43E-6
T26 (net14 net21 net21 0) nfet L=4.08E-6 W=7.49E-6
T27 (net5 net8 net8 0) nfet L=0.28E-6 W=3.61E-6
C28 (net12 net23) C=6.8E-14
T29 (net21 net23 net23 0) nfet L=3.16E-6 W=3.30E-6
T30 (net3 net1 net1 0) pfet L=7.41E-6 W=6.71E-6
R31 (net14 net2) R=9.4E6
T32 (net19 net19 net19 0) pfet L=5.44E-6 W=7.31E-6
T33 (net7 net17 net17 0) nfet L=1.87E-6 W=9.13E-6
T34 (net5 net12 net12 0) nfet L=1.84E-6 W=2.04E-6
T35 (net18 net12 net12 0) nfet L=8.56E-6 W=4.58E-6
R36 (net7 net18) R=3.0E5
R37 (net3 net14) R=4.5E5
T38 (net5 net11 net11 0) pfet L=1.20E-6 W=8.83E-6
C39 (net13 net7) C=10.0E-9
C40 (net8 net24) C=4.8E-9
C41 (net18 net14) C=9.3E-13
R42 (net21 net4) R=3.3E6
R43 (net18 net15) R=7.5E3
T44 (net2 net15 net15 0) pfet L=4.79E-6 W=2.84E-6
R45 (net16 net24) R=3.9E6
R46 (net21 net3) R=1.3E4
C47 (net5 net3) C=1.5E-7
R48 (net5 net4) R=1.7E1
T49 (net18 vdd! vdd! 0) pfet L=6.57E-6 W=4.98E-6
R50 (net3 net12) R=1.4E1
T51 (net8 net7 net7 0) pfet L=2.92E-6 W=4.84E-6
C52 (net8 net22) C=3.8E-5
T53 (net10 net5 net5 0) nfet L=1.89E-6 W=1.86E-6
T54 (net15 net2 net2 0) nfet L=8.39E-6 W=2.24E-6
T55 (net18 net2 net2 0) nfet L=5.99E-6 W=5.75E-6
R56 (net22 net17) R=5.8E3
T57 (vdd! net4 net4 0) pfet L=5.31E-6 W=5.27E-6
C58 (net7 net11) C=4.7E-5
T59 (net4 net3 net3 0) nfet L=3.97E-6 W=3.07E-6

