C1 (net7 net4) C=7.0E-8
T2 (net8 net15 net15 0) nfet L=0.23E-6 W=1.94E-6
R3 (vdd! net14) R=3.9E4
R4 (net9 net20) R=7.6E1
T5 (vdd! net21 net21 0) pfet L=2.00E-6 W=4.10E-6
T6 (0 net21 net21 0) pfet L=5.46E-6 W=8.00E-6
T7 (net1 net8 net8 0) nfet L=7.05E-6 W=8.35E-6
T8 (net7 net8 net8 0) nfet L=8.66E-6 W=1.17E-6
T9 (net23 0 0 0) nfet L=6.95E-6 W=6.33E-6
T10 (net14 net4 net4 0) nfet L=9.89E-6 W=5.89E-6
T11 (net23 net16 net16 0) nfet L=5.43E-6 W=1.44E-6
T12 (net22 net19 net19 0) pfet L=4.50E-6 W=5.06E-6
C13 (net4 net13) C=8.8E-12
R14 (net15 net1) R=5.3E2
C15 (vdd! net1) C=3.5E-5
T16 (net6 vdd! vdd! 0) nfet L=8.74E-6 W=4.89E-6
C17 (net18 net14) C=2.8E-5
T18 (net2 net3 net3 0) pfet L=6.47E-6 W=2.77E-6
T19 (net5 net23 net23 0) nfet L=2.75E-6 W=5.97E-6
T20 (0 net9 net9 0) nfet L=2.67E-6 W=7.80E-6
T21 (net23 net1 net1 0) pfet L=3.45E-6 W=0.58E-6
T22 (net15 net2 net2 0) nfet L=4.81E-6 W=7.30E-6
R23 (net16 net12) R=8.6E6
T24 (net5 vdd! vdd! 0) nfet L=6.03E-6 W=7.65E-6
R25 (net21 net12) R=1.1E0
T26 (net14 net12 net12 0) pfet L=8.61E-6 W=2.82E-6
C27 (net15 net19) C=3.3E-6
T28 (net13 net3 net3 0) pfet L=8.63E-6 W=3.15E-6

