T1 (net2 net4 net4 0) pfet L=1.74E-6 W=0.47E-6
T2 (net2 0 0 0) nfet L=6.92E-6 W=4.70E-6
T3 (net1 net3 net3 0) nfet L=1.70E-6 W=0.34E-6
T4 (net5 net1 net1 0) pfet L=2.50E-6 W=5.83E-6
C5 (net1 net2) C=6.0E-5
T6 (net4 net4 net4 0) nfet L=4.00E-6 W=3.36E-6
R7 (net5 net4) R=4.4E6
C8 (net4 net3) C=1.8E-8
T9 (net3 0 0 0) nfet L=2.74E-6 W=6.43E-6

