T1 (0 net1 net1 0) nfet L=9.79E-6 W=4.44E-6
R2 (net4 net3) R=0.4E2
T3 (net2 net2 net2 0) nfet L=2.11E-6 W=9.79E-6
T4 (net3 net4 net4 0) nfet L=2.59E-6 W=1.42E-6
C5 (net1 net2) C=4.9E-10
T6 (net4 net3 net3 0) nfet L=9.17E-6 W=6.63E-6
R7 (net2 net1) R=3.5E3
C8 (net2 net3) C=4.2E-7
T9 (net3 net2 net2 0) nfet L=1.91E-6 W=3.39E-6
T10 (net1 net2 net2 0) pfet L=4.45E-6 W=6.46E-6
R11 (net3 net1) R=8.4E1
R12 (net4 net1) R=7.1E4
R13 (net3 net1) R=8.4E4
T14 (0 net4 net4 0) pfet L=7.70E-6 W=9.11E-6
R15 (net4 net1) R=9.3E2
R16 (net1 net4) R=7.9E1
T17 (net3 net4 net4 0) nfet L=4.75E-6 W=6.97E-6
T18 (net4 net4 net4 0) nfet L=1.41E-6 W=2.36E-6
T19 (net1 net2 net2 0) pfet L=2.61E-6 W=8.20E-6
C20 (net4 net1) C=2.5E-5
R21 (net4 net3) R=9.8E3
T22 (net2 net3 net3 0) pfet L=9.71E-6 W=4.96E-6
C23 (net4 0) C=3.8E-13
C24 (net4 net1) C=2.6E-5
R25 (net3 net4) R=5.1E1
C26 (net2 net3) C=3.9E-9
C27 (net2 net3) C=4.5E-9
T28 (net2 net2 net2 0) nfet L=2.19E-6 W=5.27E-6
T29 (net1 net2 net2 0) nfet L=5.00E-6 W=4.00E-6
C30 (net2 net3) C=4.9E-5
T31 (net4 net3 net3 0) nfet L=0.53E-6 W=9.20E-6
T32 (net3 net1 net1 0) pfet L=6.90E-6 W=0.28E-6
T33 (net4 net1 net1 0) nfet L=5.08E-6 W=8.45E-6
C34 (net2 0) C=2.0E-9
C35 (net3 net2) C=9.7E-10
T36 (net2 net2 net2 0) pfet L=7.00E-6 W=0.74E-6
T37 (vdd! net4 net4 0) pfet L=2.75E-6 W=3.91E-6
T38 (net3 net3 net3 0) nfet L=6.20E-6 W=4.35E-6
T39 (net3 net1 net1 0) nfet L=1.52E-6 W=7.39E-6
T40 (net1 vdd! vdd! 0) nfet L=0.24E-6 W=2.64E-6

