T1 (net2 net4 net4 0) nfet L=8.01E-6 W=5.80E-6
R2 (net2 net3) R=5.5E0
T3 (net2 net3 net3 0) pfet L=5.78E-6 W=2.44E-6
T4 (net3 net3 net3 0) pfet L=5.35E-6 W=7.21E-6
C5 (net2 net3) C=7.1E-8
T6 (net1 net4 net4 0) nfet L=4.75E-6 W=8.90E-6
T7 (net3 net4 net4 0) nfet L=6.23E-6 W=8.92E-6
T8 (net1 net1 net1 0) nfet L=5.63E-6 W=0.11E-6
T9 (0 net3 net3 0) pfet L=5.61E-6 W=1.18E-6
R10 (net2 net3) R=7.5E2
R11 (net3 net1) R=8.7E6
T12 (net4 net1 net1 0) pfet L=3.01E-6 W=3.95E-6
T13 (net1 net3 net3 0) nfet L=6.27E-6 W=8.08E-6
C14 (0 vdd!) C=8.0E-10
C15 (net2 net3) C=9.4E-8
R16 (net1 net4) R=8.8E6
C17 (net2 net1) C=8.8E-6
T18 (net2 net3 net3 0) nfet L=8.12E-6 W=8.77E-6
T19 (net3 net1 net1 0) pfet L=1.74E-6 W=9.99E-6
C20 (net2 net1) C=3.0E-8
C21 (net3 vdd!) C=5.2E-10
T22 (net1 net2 net2 0) pfet L=5.65E-6 W=9.84E-6
T23 (net1 net2 net2 0) nfet L=1.10E-6 W=8.98E-6
T24 (net3 net1 net1 0) nfet L=0.68E-6 W=7.91E-6
R25 (net4 net3) R=6.3E6
T26 (net3 net2 net2 0) pfet L=7.87E-6 W=9.45E-6
T27 (net4 vdd! vdd! 0) pfet L=6.16E-6 W=5.97E-6
T28 (net4 net1 net1 0) nfet L=7.02E-6 W=4.37E-6
T29 (net2 vdd! vdd! 0) nfet L=8.20E-6 W=2.92E-6
C30 (net3 net1) C=8.9E-9
T31 (0 net1 net1 0) nfet L=3.43E-6 W=8.67E-6
T32 (net1 net4 net4 0) pfet L=7.90E-6 W=6.98E-6
T33 (net3 net1 net1 0) nfet L=6.96E-6 W=4.87E-6
R34 (net3 net1) R=7.6E5
R35 (net1 net3) R=3.7E4
T36 (net4 net3 net3 0) pfet L=6.53E-6 W=1.60E-6
R37 (net4 net3) R=3.4E2
C38 (net4 net1) C=9.4E-7
T39 (net2 net3 net3 0) pfet L=1.74E-6 W=9.02E-6
R40 (net2 net3) R=6.4E1
C41 (net2 0) C=0.4E-10
R42 (net1 net2) R=6.5E6
C43 (net2 0) C=8.6E-13
R44 (vdd! net4) R=2.4E3
R45 (net4 net1) R=3.3E6
T46 (net1 net1 net1 0) pfet L=4.42E-6 W=9.36E-6
R47 (net4 0) R=6.2E3
T48 (net2 net3 net3 0) pfet L=5.48E-6 W=3.40E-6
R49 (net2 net4) R=9.9E4
T50 (net3 net1 net1 0) pfet L=5.50E-6 W=5.11E-6
T51 (net4 net3 net3 0) nfet L=0.62E-6 W=2.63E-6

