R1 (net38 net35) R=0.6E2
C2 (net16 net8) C=9.7E-6
C3 (0 net29) C=6.3E-8
T4 (0 net18 net18 0) pfet L=6.46E-6 W=0.54E-6
R5 (net24 net15) R=5.5E6
C6 (0 net39) C=9.3E-11
C7 (0 net15) C=5.7E-13
T8 (net36 net13 net13 0) nfet L=7.86E-6 W=8.44E-6
T9 (net12 net21 net21 0) nfet L=4.94E-6 W=4.82E-6
R10 (net11 net17) R=6.0E1
T11 (net12 net30 net30 0) pfet L=6.50E-6 W=9.71E-6
T12 (net5 net25 net25 0) pfet L=4.56E-6 W=3.09E-6
T13 (net39 net19 net19 0) nfet L=6.26E-6 W=1.92E-6
R14 (net27 net7) R=2.4E4
T15 (net7 net12 net12 0) nfet L=2.21E-6 W=2.92E-6
R16 (net16 vdd!) R=7.1E1
C17 (net29 net12) C=7.8E-13
T18 (net29 0 0 0) pfet L=6.21E-6 W=2.02E-6
T19 (net4 net6 net6 0) nfet L=6.97E-6 W=7.37E-6
T20 (net16 0 0 0) pfet L=5.36E-6 W=5.06E-6
T21 (net12 net7 net7 0) pfet L=4.91E-6 W=5.62E-6
T22 (net12 net5 net5 0) nfet L=7.85E-6 W=6.17E-6
T23 (net39 net3 net3 0) nfet L=0.62E-6 W=3.35E-6
R24 (net33 net40) R=3.2E3
R25 (net7 net17) R=6.9E5
T26 (vdd! net15 net15 0) pfet L=1.01E-6 W=0.85E-6
T27 (vdd! net9 net9 0) pfet L=4.36E-6 W=6.32E-6
C28 (net8 net31) C=4.7E-12
C29 (net30 net34) C=1.0E-14
T30 (net10 net34 net34 0) nfet L=1.69E-6 W=0.22E-6
C31 (net16 0) C=2.1E-10
T32 (net7 net35 net35 0) nfet L=8.77E-6 W=3.83E-6
R33 (net11 net9) R=6.7E2
T34 (net5 net12 net12 0) pfet L=7.77E-6 W=9.48E-6
R35 (net1 net11) R=1.1E2
C36 (net1 net27) C=7.4E-6
T37 (net8 net38 net38 0) nfet L=3.16E-6 W=1.63E-6
R38 (net39 net22) R=8.7E5
C39 (net17 net8) C=0.3E-11
C40 (net5 net22) C=5.7E-9
T41 (net36 vdd! vdd! 0) pfet L=4.02E-6 W=8.03E-6
T42 (net11 net30 net30 0) pfet L=9.07E-6 W=4.68E-6
T43 (net6 net39 net39 0) nfet L=2.12E-6 W=7.13E-6
C44 (net7 net35) C=2.4E-5
R45 (net28 net16) R=3.6E4
R46 (net16 net33) R=3.2E2
T47 (net3 net17 net17 0) pfet L=3.95E-6 W=8.70E-6
C48 (net15 net32) C=2.5E-14
C49 (net39 net2) C=1.4E-13
T50 (net40 net23 net23 0) pfet L=7.67E-6 W=3.68E-6
T51 (net30 net18 net18 0) nfet L=0.93E-6 W=0.96E-6
T52 (net38 net3 net3 0) nfet L=1.06E-6 W=6.84E-6
R53 (net11 net28) R=0.4E1
T54 (net14 net25 net25 0) nfet L=1.93E-6 W=3.74E-6
R55 (net15 net39) R=5.1E3
R56 (net9 net31) R=6.8E5
T57 (net35 net24 net24 0) nfet L=8.99E-6 W=7.64E-6
R58 (net16 net18) R=9.6E3
T59 (net35 net16 net16 0) pfet L=6.76E-6 W=2.79E-6

