R1 (net3 net1) R=3.5E2
R2 (net3 net1) R=2.8E1
T3 (net1 net1 net1 0) pfet L=1.24E-6 W=8.95E-6
R4 (net3 net1) R=8.1E4
C5 (net3 net2) C=3.2E-6
T6 (net2 net2 net2 0) nfet L=1.37E-6 W=6.93E-6
T7 (net3 net2 net2 0) pfet L=9.43E-6 W=8.73E-6
T8 (net2 net2 net2 0) pfet L=9.63E-6 W=8.50E-6
T9 (net1 net1 net1 0) nfet L=8.54E-6 W=4.97E-6
T10 (net2 net1 net1 0) pfet L=4.47E-6 W=3.66E-6
R11 (net3 net1) R=8.5E5
C12 (net1 net3) C=0.3E-5
T13 (0 net2 net2 0) nfet L=9.92E-6 W=0.11E-6
T14 (net2 net2 net2 0) pfet L=3.69E-6 W=7.15E-6
C15 (net2 0) C=0.5E-12
T16 (net1 net3 net3 0) pfet L=6.16E-6 W=3.61E-6
T17 (net1 net3 net3 0) nfet L=4.84E-6 W=9.56E-6
T18 (net3 net3 net3 0) nfet L=4.86E-6 W=2.58E-6
T19 (net2 net1 net1 0) nfet L=4.93E-6 W=1.20E-6
T20 (net3 net3 net3 0) nfet L=5.12E-6 W=4.03E-6
R21 (0 net3) R=1.9E4
R22 (net1 net3) R=3.2E0
R23 (net1 vdd!) R=8.1E4
T24 (net2 0 0 0) pfet L=8.01E-6 W=5.01E-6
T25 (net3 net3 net3 0) nfet L=4.95E-6 W=3.59E-6
T26 (net3 net3 net3 0) nfet L=8.29E-6 W=6.94E-6
T27 (net2 net2 net2 0) pfet L=7.04E-6 W=7.08E-6
C28 (0 net1) C=2.3E-7
C29 (net3 net1) C=5.0E-9
T30 (net1 net1 net1 0) pfet L=7.59E-6 W=3.48E-6
R31 (net3 net1) R=2.0E4
T32 (net3 net2 net2 0) pfet L=0.61E-6 W=6.98E-6
T33 (net1 net2 net2 0) nfet L=8.47E-6 W=3.21E-6
T34 (0 net2 net2 0) pfet L=1.15E-6 W=6.06E-6
R35 (net3 net1) R=5.9E2
T36 (net2 net1 net1 0) nfet L=5.63E-6 W=8.30E-6
T37 (net2 0 0 0) nfet L=3.68E-6 W=7.76E-6
T38 (net3 net2 net2 0) nfet L=6.29E-6 W=2.70E-6
R39 (net2 net3) R=5.1E2
R40 (0 net1) R=4.0E0
T41 (net3 net2 net2 0) pfet L=3.22E-6 W=9.76E-6

