R1 (net11 net13) R=4.9E5
T2 (net12 net9 net9 0) nfet L=8.08E-6 W=3.23E-6
R3 (net9 net4) R=0.6E3
T4 (net4 net5 net5 0) pfet L=5.79E-6 W=3.31E-6
C5 (net9 net13) C=0.3E-9
T6 (net12 vdd! vdd! 0) nfet L=8.35E-6 W=4.75E-6
C7 (net8 net3) C=4.0E-10
C8 (net2 net6) C=4.9E-12
C9 (net10 net1) C=0.3E-9
C10 (net1 net5) C=4.2E-13
T11 (net2 net6 net6 0) nfet L=0.38E-6 W=5.66E-6
T12 (net9 net4 net4 0) nfet L=4.47E-6 W=1.31E-6
T13 (net7 net13 net13 0) nfet L=9.54E-6 W=8.62E-6
T14 (net3 net2 net2 0) pfet L=0.20E-6 W=8.43E-6
T15 (net9 net10 net10 0) pfet L=5.14E-6 W=1.99E-6
T16 (net10 net13 net13 0) pfet L=3.39E-6 W=4.12E-6
R17 (net12 net4) R=7.5E6
T18 (net10 net2 net2 0) pfet L=9.11E-6 W=9.69E-6
C19 (net9 net12) C=2.9E-11
R20 (vdd! net3) R=8.1E2
T21 (net2 vdd! vdd! 0) nfet L=2.25E-6 W=8.06E-6
R22 (net9 0) R=1.9E5
R23 (net3 net13) R=4.5E1
C24 (net5 net2) C=5.2E-7
T25 (net11 net8 net8 0) pfet L=9.20E-6 W=6.90E-6
T26 (net2 net2 net2 0) nfet L=4.33E-6 W=7.05E-6
R27 (net2 net7) R=9.2E6
C28 (net5 net11) C=4.0E-11
T29 (0 0 0 0) nfet L=8.71E-6 W=2.31E-6
C30 (net2 net5) C=9.5E-12
T31 (net5 net2 net2 0) pfet L=7.32E-6 W=2.47E-6
T32 (net2 net2 net2 0) pfet L=4.77E-6 W=3.26E-6
T33 (0 net6 net6 0) pfet L=7.02E-6 W=4.76E-6
T34 (vdd! net9 net9 0) nfet L=0.62E-6 W=8.62E-6
T35 (0 net1 net1 0) nfet L=9.70E-6 W=3.07E-6
T36 (vdd! net3 net3 0) nfet L=3.24E-6 W=3.15E-6
T37 (net10 net10 net10 0) pfet L=8.30E-6 W=6.96E-6
C38 (0 net2) C=7.9E-13
R39 (net7 net11) R=2.4E0
C40 (net8 net13) C=8.7E-7
T41 (net8 net10 net10 0) nfet L=0.57E-6 W=7.59E-6
C42 (net3 net4) C=7.7E-11
C43 (net4 net3) C=4.6E-12

