T1 (net3 net8 net8 0) pfet L=9.40E-6 W=9.11E-6
C2 (net12 net13) C=9.2E-13
C3 (net4 net1) C=2.2E-12
T4 (net9 net2 net2 0) pfet L=9.81E-6 W=4.00E-6
T5 (net12 net2 net2 0) nfet L=3.91E-6 W=4.30E-6
T6 (net13 net12 net12 0) pfet L=5.07E-6 W=7.59E-6
T7 (net11 net3 net3 0) nfet L=0.34E-6 W=9.51E-6
T8 (net3 net15 net15 0) pfet L=7.30E-6 W=4.85E-6
C9 (net6 net4) C=0.6E-14
T10 (0 net11 net11 0) nfet L=2.22E-6 W=7.42E-6
R11 (net1 net15) R=6.2E0
T12 (net12 net6 net6 0) nfet L=6.04E-6 W=2.84E-6
T13 (net8 net8 net8 0) nfet L=8.14E-6 W=9.52E-6
C14 (net13 net1) C=0.6E-10
T15 (net9 vdd! vdd! 0) nfet L=9.20E-6 W=1.88E-6
R16 (net2 net7) R=8.1E6
T17 (net12 net14 net14 0) pfet L=4.28E-6 W=5.86E-6
R18 (net13 net9) R=9.7E6
R19 (net8 vdd!) R=5.3E2
R20 (net3 net11) R=5.9E4
T21 (net1 net12 net12 0) nfet L=7.67E-6 W=4.14E-6
R22 (0 net13) R=8.0E1
T23 (vdd! net4 net4 0) pfet L=0.27E-6 W=7.59E-6
R24 (net15 net7) R=0.3E2
R25 (net2 net11) R=7.0E4

