T1 (net2 0 0 0) nfet L=7.28E-6 W=7.03E-6
T2 (net17 net1 net1 0) pfet L=8.57E-6 W=7.77E-6
T3 (net15 net6 net6 0) pfet L=4.88E-6 W=1.74E-6
T4 (net11 net2 net2 0) nfet L=1.74E-6 W=3.13E-6
T5 (0 net5 net5 0) pfet L=8.33E-6 W=2.34E-6
T6 (vdd! net23 net23 0) pfet L=8.33E-6 W=5.59E-6
C7 (net4 net17) C=9.3E-14
C8 (net25 net5) C=2.8E-12
T9 (net6 net21 net21 0) nfet L=8.32E-6 W=4.85E-6
T10 (0 net23 net23 0) nfet L=1.81E-6 W=7.58E-6
C11 (net21 net23) C=1.0E-7
R12 (net9 net10) R=4.4E4
C13 (net25 net16) C=1.9E-14
T14 (net1 net16 net16 0) nfet L=2.07E-6 W=9.94E-6
T15 (net21 net24 net24 0) pfet L=4.30E-6 W=4.33E-6
C16 (net21 net9) C=6.5E-13
C17 (net15 0) C=6.9E-9
T18 (net21 net1 net1 0) nfet L=1.70E-6 W=5.22E-6
C19 (net10 net24) C=8.3E-13
T20 (net24 vdd! vdd! 0) nfet L=3.37E-6 W=2.62E-6
C21 (net21 vdd!) C=5.0E-8
T22 (vdd! net2 net2 0) nfet L=4.39E-6 W=7.94E-6
C23 (net19 net22) C=7.3E-12
T24 (net19 0 0 0) nfet L=1.06E-6 W=7.31E-6
T25 (net6 net24 net24 0) nfet L=9.55E-6 W=2.87E-6
T26 (net24 net10 net10 0) nfet L=0.58E-6 W=4.21E-6
T27 (net16 net7 net7 0) nfet L=2.99E-6 W=8.22E-6
T28 (net4 net23 net23 0) nfet L=7.88E-6 W=7.51E-6
C29 (net17 vdd!) C=10.0E-11
T30 (net20 net16 net16 0) nfet L=0.75E-6 W=3.98E-6
R31 (net23 net1) R=4.6E0
R32 (net1 net12) R=5.3E5
T33 (net10 net22 net22 0) nfet L=4.96E-6 W=3.19E-6
C34 (net5 net6) C=1.0E-7
T35 (0 net14 net14 0) nfet L=5.67E-6 W=8.20E-6
C36 (net14 net22) C=0.8E-7
R37 (net6 net19) R=8.9E0
T38 (vdd! net19 net19 0) pfet L=8.09E-6 W=4.08E-6
R39 (net14 0) R=7.4E4

