R1 (net6 net26) R=6.3E3
C2 (net31 net8) C=6.0E-11
T3 (net6 net33 net33 0) pfet L=5.69E-6 W=7.76E-6
C4 (net16 net19) C=1.1E-6
R5 (0 net28) R=5.7E1
T6 (net8 net10 net10 0) nfet L=5.01E-6 W=4.78E-6
R7 (0 net28) R=9.0E5
R8 (net20 net26) R=0.4E3
R9 (net12 net10) R=6.3E6
C10 (net1 net28) C=9.6E-7
R11 (net22 vdd!) R=0.5E5
C12 (net3 net32) C=5.4E-8
T13 (vdd! net31 net31 0) nfet L=2.55E-6 W=0.88E-6
C14 (net26 net17) C=9.8E-13
T15 (net28 net1 net1 0) nfet L=7.79E-6 W=4.19E-6
T16 (net30 net30 net30 0) pfet L=5.58E-6 W=1.46E-6
C17 (net15 net25) C=5.0E-5
T18 (net10 0 0 0) nfet L=5.80E-6 W=3.87E-6
C19 (vdd! net11) C=5.6E-5
R20 (net9 net21) R=2.8E0
T21 (net24 net24 net24 0) nfet L=1.54E-6 W=6.24E-6
R22 (net29 net27) R=4.9E0
T23 (net23 net27 net27 0) pfet L=8.20E-6 W=0.56E-6
R24 (net15 net3) R=9.9E6
T25 (0 net8 net8 0) nfet L=5.18E-6 W=9.78E-6
C26 (net9 net3) C=4.9E-9
C27 (net6 net4) C=3.6E-14
C28 (net13 net28) C=7.1E-7
T29 (net16 net4 net4 0) pfet L=6.15E-6 W=8.13E-6
T30 (net30 net23 net23 0) pfet L=8.14E-6 W=0.86E-6
T31 (net2 0 0 0) nfet L=7.51E-6 W=8.04E-6
R32 (net32 net6) R=0.4E4
R33 (net22 net12) R=8.3E2
R34 (net2 net11) R=1.4E0
T35 (net21 0 0 0) pfet L=7.04E-6 W=3.01E-6
C36 (net8 net7) C=8.4E-11
T37 (net6 net30 net30 0) nfet L=2.92E-6 W=0.30E-6
T38 (net8 net20 net20 0) pfet L=5.81E-6 W=0.72E-6
C39 (net13 net19) C=6.5E-8
R40 (net33 net13) R=8.6E3
R41 (net20 net2) R=6.6E4
R42 (net32 net14) R=0.8E5
T43 (net24 net13 net13 0) pfet L=8.60E-6 W=4.61E-6
C44 (vdd! net25) C=5.9E-9
T45 (net7 net23 net23 0) pfet L=6.61E-6 W=7.72E-6
C46 (net29 net6) C=5.4E-10
C47 (net16 0) C=4.1E-7
C48 (net21 vdd!) C=5.7E-8

