T1 (net5 net7 net7 0) nfet L=5.56E-6 W=2.97E-6
R2 (net7 net2) R=3.7E3
C3 (vdd! net7) C=5.1E-11
C4 (net2 net3) C=9.0E-11
R5 (net7 net10) R=3.0E4
R6 (net9 net4) R=4.3E4
T7 (0 net2 net2 0) pfet L=4.55E-6 W=3.98E-6
R8 (net5 vdd!) R=4.4E3
T9 (net10 net5 net5 0) pfet L=2.78E-6 W=8.93E-6
R10 (net4 net7) R=5.6E3
C11 (net7 net3) C=0.8E-14
R12 (net8 net2) R=2.4E1
T13 (net7 net1 net1 0) nfet L=2.70E-6 W=1.15E-6
R14 (net6 net3) R=7.2E3
T15 (net4 net3 net3 0) pfet L=2.28E-6 W=6.04E-6
T16 (vdd! net2 net2 0) pfet L=1.80E-6 W=8.47E-6
T17 (net9 net1 net1 0) nfet L=3.75E-6 W=8.80E-6
T18 (net2 net1 net1 0) pfet L=1.24E-6 W=4.84E-6
T19 (net9 net5 net5 0) pfet L=8.12E-6 W=3.02E-6
T20 (net10 net1 net1 0) pfet L=1.23E-6 W=5.04E-6
C21 (net6 net1) C=4.8E-7
T22 (net6 net1 net1 0) pfet L=0.49E-6 W=3.94E-6
T23 (net7 net6 net6 0) pfet L=7.68E-6 W=3.80E-6
R24 (net6 net1) R=9.4E1
C25 (net8 net10) C=9.6E-13
C26 (net2 net3) C=1.3E-11

