T1 (net2 net2 net2 0) pfet L=6.59E-6 W=5.85E-6
T2 (net7 net1 net1 0) pfet L=4.87E-6 W=1.82E-6
T3 (net3 net4 net4 0) pfet L=0.90E-6 W=7.99E-6
T4 (net4 net1 net1 0) pfet L=2.15E-6 W=3.70E-6
T5 (net7 net6 net6 0) pfet L=2.89E-6 W=5.78E-6
C6 (net6 net4) C=5.7E-8
C7 (net7 net6) C=4.2E-7
C8 (net5 net6) C=6.2E-7
T9 (net5 net6 net6 0) pfet L=1.13E-6 W=4.37E-6
R10 (net6 net2) R=6.5E5
T11 (net4 net7 net7 0) nfet L=6.18E-6 W=7.91E-6
T12 (net7 net3 net3 0) pfet L=8.84E-6 W=2.22E-6
R13 (net4 0) R=0.2E3
T14 (net2 net5 net5 0) pfet L=1.53E-6 W=5.53E-6
T15 (net3 net5 net5 0) nfet L=6.86E-6 W=6.98E-6
C16 (net3 net6) C=3.7E-9
T17 (net7 net7 net7 0) nfet L=1.31E-6 W=4.65E-6
C18 (net1 net2) C=5.9E-6
T19 (net4 vdd! vdd! 0) nfet L=5.68E-6 W=4.65E-6
R20 (net5 net6) R=3.0E2
T21 (net1 net6 net6 0) nfet L=3.08E-6 W=6.81E-6
T22 (net5 net4 net4 0) pfet L=8.40E-6 W=7.96E-6
T23 (0 net6 net6 0) nfet L=3.75E-6 W=9.79E-6
R24 (net6 net3) R=6.2E0
T25 (net4 net1 net1 0) nfet L=2.94E-6 W=3.14E-6
T26 (0 net4 net4 0) nfet L=8.24E-6 W=1.24E-6
C27 (net2 net3) C=3.9E-9
C28 (vdd! net1) C=9.1E-6
C29 (net2 net7) C=1.4E-6
C30 (0 net2) C=2.0E-12
T31 (net2 net4 net4 0) pfet L=2.19E-6 W=1.51E-6
T32 (net7 net1 net1 0) pfet L=3.07E-6 W=9.50E-6
T33 (net1 net4 net4 0) pfet L=7.28E-6 W=5.01E-6
T34 (0 net1 net1 0) pfet L=3.92E-6 W=3.11E-6
R35 (net1 net6) R=3.1E4
T36 (net5 net2 net2 0) pfet L=8.40E-6 W=9.89E-6
R37 (net5 net6) R=8.4E2
T38 (net5 vdd! vdd! 0) pfet L=0.39E-6 W=0.22E-6
T39 (net2 0 0 0) nfet L=5.31E-6 W=1.56E-6
C40 (vdd! net1) C=4.6E-13
T41 (net3 net1 net1 0) pfet L=7.31E-6 W=1.00E-6
T42 (net2 net1 net1 0) nfet L=4.82E-6 W=0.69E-6
C43 (net5 net7) C=6.7E-11
R44 (net1 net5) R=0.4E1
T45 (0 net3 net3 0) pfet L=9.39E-6 W=3.94E-6
C46 (net6 net7) C=4.4E-14
C47 (net6 net4) C=4.8E-12
R48 (0 net5) R=3.8E6
T49 (net2 net7 net7 0) pfet L=9.58E-6 W=1.52E-6
T50 (net1 net5 net5 0) pfet L=7.92E-6 W=8.52E-6
C51 (net1 vdd!) C=7.3E-6
T52 (net5 net4 net4 0) nfet L=9.32E-6 W=1.65E-6

