R1 (net25 net16) R=1.0E2
R2 (net26 net12) R=3.9E4
T3 (net1 net24 net24 0) pfet L=4.17E-6 W=0.42E-6
C4 (net1 vdd!) C=4.7E-6
C5 (net10 net3) C=6.3E-13
C6 (net16 net2) C=9.5E-12
T7 (net4 net25 net25 0) pfet L=1.71E-6 W=4.03E-6
R8 (net27 net7) R=5.7E6
C9 (net9 net19) C=7.9E-14
R10 (net12 net19) R=2.3E2
R11 (net25 0) R=7.3E4
C12 (net8 net22) C=2.9E-8
R13 (0 net25) R=6.6E3
T14 (net10 net21 net21 0) nfet L=7.39E-6 W=4.89E-6
T15 (net4 0 0 0) pfet L=5.83E-6 W=3.69E-6
C16 (net16 net2) C=5.4E-5
C17 (net26 net24) C=1.0E-14
R18 (net23 net11) R=7.0E1
T19 (net6 net1 net1 0) pfet L=2.93E-6 W=8.61E-6
C20 (vdd! net14) C=6.8E-5
C21 (net16 net15) C=0.8E-11
C22 (net26 vdd!) C=4.0E-6
R23 (net2 0) R=3.5E6
T24 (net14 net1 net1 0) nfet L=9.35E-6 W=5.15E-6
C25 (net15 net2) C=10.0E-7
C26 (net9 net16) C=2.1E-9
T27 (net23 net3 net3 0) pfet L=1.86E-6 W=1.53E-6
T28 (net4 net4 net4 0) nfet L=4.65E-6 W=1.16E-6
C29 (net11 net15) C=8.2E-6
C30 (net23 0) C=8.9E-8
R31 (net5 net17) R=1.9E6
R32 (net12 net3) R=3.0E0
T33 (net15 net11 net11 0) nfet L=2.06E-6 W=9.00E-6
T34 (vdd! net18 net18 0) pfet L=0.59E-6 W=7.71E-6
T35 (net21 net10 net10 0) nfet L=8.09E-6 W=3.49E-6
R36 (net10 net11) R=9.7E0
T37 (0 net27 net27 0) pfet L=8.91E-6 W=7.78E-6
T38 (net10 net5 net5 0) nfet L=4.96E-6 W=6.13E-6
C39 (net26 net5) C=2.4E-12
R40 (net24 net15) R=0.7E3
C41 (net1 net17) C=5.3E-11
T42 (0 net24 net24 0) pfet L=0.43E-6 W=6.48E-6
R43 (net4 net26) R=2.2E1
C44 (net13 net20) C=9.1E-10
T45 (net10 net9 net9 0) nfet L=9.74E-6 W=1.80E-6
C46 (net22 net14) C=2.4E-14
C47 (net20 net24) C=2.8E-14
R48 (net2 net22) R=6.7E0

