R1 (net1 net2) R=9.0E4
T2 (net2 net2 net2 0) pfet L=5.87E-6 W=0.71E-6
C3 (net1 net2) C=4.0E-12
T4 (net3 net2 net2 0) pfet L=5.71E-6 W=2.91E-6
T5 (net3 net1 net1 0) pfet L=4.24E-6 W=7.12E-6
R6 (net1 net3) R=3.2E3
T7 (net2 vdd! vdd! 0) pfet L=0.31E-6 W=7.34E-6
C8 (net1 net2) C=9.4E-5
C9 (net2 net1) C=9.9E-9
T10 (0 net3 net3 0) nfet L=0.79E-6 W=9.73E-6
R11 (net3 net2) R=4.2E6
R12 (net3 net2) R=2.1E3
T13 (net2 net2 net2 0) nfet L=9.96E-6 W=2.60E-6
R14 (net2 net1) R=2.1E6
T15 (net1 0 0 0) pfet L=4.46E-6 W=4.71E-6
T16 (net1 net3 net3 0) pfet L=8.16E-6 W=5.80E-6
C17 (net2 net1) C=9.7E-7
T18 (net3 net3 net3 0) pfet L=8.60E-6 W=6.58E-6
R19 (vdd! net2) R=8.5E4
T20 (net1 net3 net3 0) nfet L=0.43E-6 W=6.19E-6

